Test MOS1

vb Nvf 0 0

vd Nvd 0 0
vg Nvg 0 0

vs1 Nvs1 0 0
vs2 Nvs2 0 0
vs3 Nvs3 0 0

* W/L = 3
M1  Nvd Nvg Nvs1 Nvf  NMOS
* W/L = 2
M2  Nvd Nvg Nvs2 Nvf  NMOS W=10u L=5u
* W/L = 1
M3  Nvd Nvg Nvs3 Nvf  NMOS3

.MODEL  NMOS         NMOS (LEVEL  = 1  L = 3u  W = 9u)
.MODEL  NMOS3        NMOS (LEVEL  = 1)

.control
dc vd 0 5 0.1 vg 0 5 1
plot vs1#branch vs2#branch vs3#branch
quit
.endc

.end
