* sw ring-oscillators

.control
destroy all
run
plot I(vmeasure)
plot V(Osc_out) 
rusage

quit
.endc

.ic v(osc_out)=0.25
.tran 1n 4n 50p ;
*.tran 100p 80n 50p uic ;for BSIM4
.option method=gear maxord=3

VDD VDD2 0 DC 3

VMEASURE VDD2 VDD dc 0

cvdd vdd 0 1e-18
XX18 Osc_out N001 VDD 0 inverter
XX2 N001 N002 VDD 0 inverter
XX3 N002 N003 VDD 0 inverter
XX4 N003 N004 VDD 0 inverter
XX5 N004 N005 VDD 0 inverter
XX6 N005 N006 VDD 0 inverter
XX7 N006 N007 VDD 0 inverter
XX8 N007 N008 VDD 0 inverter
XX9 N008 N009 VDD 0 inverter
XX10 N009 N010 VDD 0 inverter
XX11 N010 N011 VDD 0 inverter
XX12 N011 N012 VDD 0 inverter
XX13 N012 N013 VDD 0 inverter
XX14 N013 N014 VDD 0 inverter
XX15 N014 N015 VDD 0 inverter
XX16 N015 N016 VDD 0 inverter
XX17 N016 Osc_out VDD 0 inverter


* sw like an NMOS inverter with resistive load
.subckt invertern In Out VDD DGND
*sp out vdd in vdd swswitch on
Rl out vdd 10k
Cl out dgnd 0.1p
*C2 out vdd 0.1p
sn out dgnd in dgnd swswitch off
.ends invertern

* sw like a PMOS inverter with resistive load
.subckt inverterp In Out VDD DGND
sp out vdd vdd in swswitch
Rl out 0 10k
*Cl out dgnd 0.1p
C2 out vdd 0.1p
*sn out dgnd in dgnd swswitch off
.ends inverterp

* sw like a CMOS inverter
.subckt inverter In Out VDD DGND
sp out vdd vdd in swswitch
*Rl out 0 10k
Cl out dgnd 0.1p
C2 out vdd 0.1p
sn out dgnd in dgnd swswitch
.ends inverter

.model swswitch sw (vt=1 vh=0.1 ron=1k roff=1e12)
.model switchn sw (vt=1 vh=0.1 ron=1k roff=1e12)

.end
