* simple sample & hold, transient noise

* switch control
* PULSE(V1 V2 TD TR TF PW PER)
vgate1 ga1 0 dc 0 pulse (0 1 0 10n 10n 90n 200n)

Switch1 1 2 ga1 0 smodel1

* noisy input
* rms value white,  time step, exponent < 2, rms value 1/f
vin 1 0 dc 0 trnoise 0.1m 0.2n 1 0.1m
*vin 1 0 dc 0 trnoise 0.1m 0.2n 0 0.1m

* output
c2 2 0 10p

* second S&H
vgate2 ga2 0 dc 0 pulse (0 1 140n 10n 10n 30n 200n)
*Buffer EXXXXXXX N+ N- NC+ NC- VALUE
e1 4 0 2 0 1
Switch2 4 3 ga2 0 smodel2
c3 3 0 10p

.option itl1=500 gmin=1e-15 itl4=10  acct

.model smodel1 sw vt=0.5 ron=100
.model smodel2 sw vt=0.5 ron=100

.tran 0.4n 1u


.control
unset ngdebug
set filetype=ascii
rusage
run
rusage all
write noi_test.out v(1)
plot  v(2) v(3) xlimit 4u 5u
plot  v(ga1) v(ga2) xlimit 4u 5u
linearize
*rms v(1)
fft v(3)
plot mag(v(3)) loglog xlimit 1e4 1e8 ylimit 1e-10 1e-4
setplot tran1
linearize
psd 101 v(3)
plot mag(v(3)) xlimit 0 3e7 ylabel V^2/Hz

quit
.endc


.end
